US06521754B2
Rac-[7-(1 -Hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester
0.05 g of (7-acetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyll ester (0.00018 Mol) were dissolved in ethanol (30 ml) and 0.028 g of NaBH4 (0.00072 Mol) were added. After stirring at 40° C. for 24 hrs. the reaction mixture was diluted with water, extracted with CH2Cl2, the organic phase washed with brine and dried over MgSO4. After chromatography on silicagel with CH2Cl2/MeOH 97:3 the title compound was obtained as a white solid (38%); F.p.: 179° C. (dec.).

reactant | (7-acetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid | 0.00018 Mol, 0.05 g | C(C)(=O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C11H10N2O4S
reactant | NaBH4 | 0.00072 Mol, 0.028 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Rac-[7-(1 -Hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | OC(C)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C11H12N2O4S
